US06872731B2
3-[3-(Pyridin-3-yl)phenyl]imidazo[1,2-α]pyridine-7-carboxaldehyde O-(2-dimethylaminoethyl)oxime
The title compound was prepared in a similar manner to that described in Example 14 using O-(2-dimethylaminoethyl)hydroxylamine hydrochloride and 3-[3-(pyridin-3-yl)phenyl]imidazo[1,2-α]pyridine-7-carboxaldehyde to afford a brown oil, essentially as a single geometric isomer. 1H NMR (400 MHz, CDCl3) δH 2.97 (6H, s), 3.43-3.47 (2H, m), 4.65-4.69 (2H, m), 7.28-7.33 (2H, m), 7.42-7.47 (1H, m), 7.62-7.82 (4H, m), 7.94-7.98 (1H, m), 8.20 (1H, s), 8.32-8.35 (1H, m), 8.25 (1H, s), 8.61-8.65(1H, m), 8.90 (1H, s); m/z (ES+) 386 (M++H).

reactant | O-(2-dimethylaminoethyl)hydroxylamine hydrochloride | Cl.CN(CCON)C
reactant | 3-[3-(pyridin-3-yl)phenyl]imidazo[1,2-α]pyridine-7-carboxaldehyde | N1=CC(=CC=C1)C=1C=C(C=CC1)C1=CN=C2N1C=CC(=C2)C=O | C19H13N3O
product | 3-[3-(Pyridin-3-yl)phenyl]imidazo[1,2-α]pyridine-7-carboxaldehyde O-(2-dimethylaminoethyl)oxime | CN(CCON=CC1=CC=2N(C=C1)C(=CN2)C2=CC(=CC=C2)C=2C=NC=CC2)C | C23H23N5O
